US07338959B2
N2-(5-tert-Butyl-isoxazol-3-yl)-N5-[2-(3-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1-H-benzoimidazole-2,5-diamine
The title compound was prepared following the procedure of Example 134 with N-(5-tert-Butyl-isoxazol-3-yl)-N-{5-[(2-chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H benzoimidazole-2-yl}-2,2-dimethyl-propionamide (23 mg, 0.045 mmol) and 3-[(methylsulfonyl)methyl]aniline (10 mg, 0.139 mmol) to afford a white solid (5 mg, 0.01 mmol). MS (ESI) m/z=561 [M+H]+.

reactant | N-(5-tert-Butyl-isoxazol-3-yl)-N-{5-[(2-chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H benzoimidazole-2-yl}-2,2-dimethyl-propionamide | 0.045 mmol, 23 mg | C(C)(C)(C)C1=CC(=NO1)N(C(C(C)(C)C)=O)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C25H30ClN7O2
reactant | 3-[(methylsulfonyl)methyl]aniline | 0.139 mmol, 10 mg | CS(=O)(=O)CC=1C=C(N)C=CC1 | C8H11NO2S
product | N2-(5-tert-Butyl-isoxazol-3-yl)-N5-[2-(3-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1-H-benzoimidazole-2,5-diamine | C(C)(C)(C)C1=CC(=NO1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC(=CC=C2)CS(=O)(=O)C | C28H32N8O3S
